US03996276
A mixture of 4.20 g of 1,5,9-triazacyclododecane and 4.00 g of hexamethylphosphorous triamide is heated at 100° C for about six hours, by which time evolution of dimethylamine is complete. Distillation under reduced pressure gives 3.70 g (76%) of 1,5,9-triaza-13-phosphatricyclo-[7.3.1.05,13 ]tridecane as a clear, colorless liquid which boils at 104°-135° C at 0.60 mm. The product solidifies at room temperature. Its infrared absorption spectrum (neat) shows absorptions at 3.5, 6.85, 7.01, 7.52, 7.73, 8.00, 8.27, 8.66, 8.90, 9.02, 9.36, 9.56, 10.27, 10.89, 11.42, 11.73, 11.97 and 14.7 μ. The mass spectrum shows an M+ ion at 199; measured mass, 199.1264; calc'd, 199.1238.

reactant | 1,5,9-triazacyclododecane | 4.20 g | N1CCCNCCCNCCC1 | C9H21N3
reactant | dimethylamine | CNC | C2H7N
reactant | hexamethylphosphorous triamide | 4.00 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,5,9-triaza-13-phosphatricyclo-[7.3.1.05,13 ]tridecane | 3.70 g, 76% | N12CCCN3CCCN(CCC1)P23 | C9H18N3P
